US05585111
Preparation of Isooctyl Acrylate: N-vinyl-2-pyrrolidone (91:9) Copolymer
Isooctyl acrylate (54.9 Kg), N-vinyl-2-pyrrolidone (5.4 Kg), and ethyl acetate (93.6 Kg) were charged into a 75 gallon (285 liter) stainless steel reactor. The mixture was deoxygenated and heated to 55° C. After 5 minutes at 55° C., azobisisobutyronitrile (30 g) premixed in ethyl acetate (1 Kg) was charged to the reactor. Additional portions of azobisisobutyronitrile (30 g) premixed with ethyl acetate (1 Kg) were added 4 hours after the start of the reaction and again at 8 hours. The temperature was maintained at 55° C. throughout the reaction. The reaction was continued until complete. An antioxidant (61 g, IRGANOX™ 1010, Ciba-Geigy Corp.) and heptane (66.3 Kg) were added to the reactor and the contents mixed until homogeneous. The final copolymer had a measured inherent viscosity of 1.67 deciliter/g in ethyl acetate.

reactant | Isooctyl acrylate | 54.9 Kg | C(C=C)(=O)OCCCCCC(C)C | C11H20O2
reactant | N-vinyl-2-pyrrolidone | 5.4 Kg | C(=C)N1C(CCC1)=O | C6H9NO
reactant | heptane | 66.3 Kg | CCCCCCC | C7H16
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 93.6 Kg | C(C)(=O)OCC | C4H8O2
product | Isooctyl Acrylate N-vinyl-2-pyrrolidone | C(C=C)(=O)OCCCCCC(C)C.C(=C)N1C(CCC1)=O | InChI=1S/C11H20O2.C6H9NO/c1-4-11(12)13-9-7-5-6-8-10(2)3;1-2-7-5-3-4-6(7)8/h4,10H,1,5-9H2,2-3H3;2H,1,3-5H2
